US07138425B2
a) 2-(5-Nitro-2-ethylaminophenyl)-5-phenylbenzoxazole
Prepared by the method of Example 54a), from 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole (200 mg, 0.60 mmol), and ethylamine (3 ml) the subtitle compound was obtained (217 mg, 100%). MS 360 m/z (M+H)+.

reactant | 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole | 0.60 mmol, 200 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
reactant | ethylamine | 3 ml | C(C)N | C2H7N
product | 2-(5-Nitro-2-ethylaminophenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)NCC | C21H17N3O3
